US07189739B2
G. 1-(3-piperazinylpropionyl)-(4-benzyl)-piperidinyl-indole-5-carboxamide
The 1-acryloyl-(4-benzyl)-piperidinyl-indole-5-carboxamide above was reacted with tert-butyl-1-piperazine carboxylate as described before. The product was deprotected using methanolic HCl. M+ 458.

reactant | 1-acryloyl-(4-benzyl)-piperidinyl-indole-5-carboxamide | C(C=C)(=O)N1C(CC(CC1)CC1=CC=CC=C1)C=1NC2=CC=C(C=C2C1)C(=O)N | C24H25N3O2
reactant | tert-butyl-1-piperazine carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | HCl | Cl | ClH
product | 1-(3-piperazinylpropionyl)-(4-benzyl)-piperidinyl-indole-5-carboxamide | N1(CCNCC1)CCC(=O)N1C(CC(CC1)CC1=CC=CC=C1)C=1NC2=CC=C(C=C2C1)C(=O)N | C28H35N5O2
